US04508658
α-Cyano-phenylacetic acid pentachlorophenyl ester
8 g. (0.05 moles) of α-cyanophenylacetic acid, 13 g. (0.05 moles) of pentachlorophenol are mixed together. 4.3 g. (0.05 moles) of phosphoroxychloride are added dropwise. The obtained mixture is heated slowly to 85°-90° C. on an oil-bath and the mixture is kept at this temperature until the HCl evolution ceases. When the reaction is completed, the mixture is cooled to room temperature, and the melt is taken up in 100 ml. of carbon tetrachloride. The solution is washed three times with 30 ml. of water, treated with decolorizing charcoal, dried and evaporated. The product is recrystalized from diisopropyl ether, and crystalline pentachlorophenyl ester is precipitated.

reactant | α-cyanophenylacetic acid | 0.05 moles | C(#N)C(C(=O)O)C1=CC=CC=C1 | C9H7NO2
reactant | pentachlorophenol | 0.05 moles | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | phosphoroxychloride | 0.05 moles | O=P(Cl)(Cl)Cl | Cl3OP
reactant | HCl | Cl | ClH
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-Cyano-phenylacetic acid pentachlorophenyl ester | ClC1=C(C(=C(C(=C1OC(C(C#N)C1=CC=CC=C1)=O)Cl)Cl)Cl)Cl | C15H6Cl5NO2
